US06322775B1
1-phenyl-3-trifluoromethyl-4,5-pyrazolinedione;
1-methyl-3-trifluoromethyl-4,5-pyrazolinedione; 1-isopropyl-3-trifluoromethyl4,5-pyrazolinedione; 1-ethyl-3-trifluoromethyl-4,5-pyrazolinedione; 3-trifluoromethyl-4,5-pyrazolinedione;

reactant | 1-methyl-3-trifluoromethyl-4,5-pyrazolinedione | CN1NC(C(C1=O)=O)C(F)(F)F | C5H5F3N2O2
reactant | 1-isopropyl-3-trifluoromethyl4,5-pyrazolinedione | C(C)(C)N1NC(C(C1=O)=O)C(F)(F)F | C7H9F3N2O2
reactant | 1-ethyl-3-trifluoromethyl-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C(F)(F)F | C6H7F3N2O2
reactant | 3-trifluoromethyl-4,5-pyrazolinedione | FC(C1NNC(C1=O)=O)(F)F | C4H3F3N2O2
product | 1-phenyl-3-trifluoromethyl-4,5-pyrazolinedione | C1(=CC=CC=C1)N1NC(C(C1=O)=O)C(F)(F)F | C10H7F3N2O2
